US05273993
2-[4-(2-Methylpropyl)phenyl]-propan-1-ol-sulfamate (ester).
The title compound was prepared by procedures of Example 33 from sulfamoyl chloride and 2-[4-(2-methylpropyl)phenyl]-propan-1-ol. The oil obtained was further purified as in Example 38 to give the title compound as a white solid, mp 61°-63° C. in 45% yield.

reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | 2-[4-(2-methylpropyl)phenyl]-propan-1-ol | CC(CC1=CC=C(C=C1)C(CO)C)C | C13H20O
product | 2-[4-(2-Methylpropyl)phenyl]-propan-1-ol sulfamate | CC(CC1=CC=C(C=C1)C(CO)C)C.S(N)([O-])(=O)=O | InChI=1S/C13H20O.H3NO3S/c1-10(2)8-12-4-6-13(7-5-12)11(3)9-14;1-5(2,3)4/h4-7,10-11,14H,8-9H2,1-3H3;(H3,1,2,3,4)/p-1
